US09315458B2
C) 3-fluoro-2-hydroxy-4-methoxybenzoic acid
To a mixture of 3-fluoro-2-hydroxy-4-methoxybenzaldehyde (10.0 g) and sodium dihydrogenphosphate (22.9 g) in DMSO (100 mL) and water (25.0 mL) was added dropwise an aqueous solution (30.0 mL) of sodium chlorite (14.5 g), and the mixture was stirred at 20° C. for 16 hr. The solvent was evaporated under reduced pressure, the residue was diluted with water, and the mixture was extracted with ethyl acetate (×6). The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (7.42 g).

reactant | 3-fluoro-2-hydroxy-4-methoxybenzaldehyde | 10.0 g | FC=1C(=C(C=O)C=CC1OC)O | C8H7FO3
reactant | sodium dihydrogenphosphate | 22.9 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 30.0 mL, 14.5 g | Cl(=O)[O-].[Na+]
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | water | 25.0 mL | O | H2O
product | 3-fluoro-2-hydroxy-4-methoxybenzoic acid | 7.42 g | FC=1C(=C(C(=O)O)C=CC1OC)O | C8H7FO4
